US06825188B2
a) Ethyl (±)-8-[3-(2-pyridylamino)-1-propyloxy]-2-methyl-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate
A solution of (±)-8-[3-[(4-amino-2-pyridyl)amino]-1-propyloxy]-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetic acid (0.27 g, 0.7 mmol) and 4 M HCl in dioxane (0.2 mL, 0.8 mmol) in ethanol (10 mL) was heated to reflux. After 72 hr, the reaction was concentrated and the residue was partitioned between EtOAc and aqueous K2CO3. The organic phase was washed with brine, dried (MgSO4), and concentrated. The residue was dissolved in toluene (5 mL) and triethylamine (0.35 mL, 2.5 mmol). and the resulting solution was heated to reflux. After 18 hr, the reaction was concentrated under vacuum to give the title compound (0.20 g, 69%) as a tan foam: MS (ES) m/e 413.4 (M+H)+. Anal. Calcd for C22H28N4O4.0.25 H2O: C, 63.37; H, 6.89; N,13.44. Found: C, 63.32; H, 7.17; N, 13.05.

reactant | (±)-8-[3-[(4-amino-2-pyridyl)amino]-1-propyloxy]-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetic acid | 0.7 mmol, 0.27 g | NC1=CC(=NC=C1)NCCCOC1=CC2=C(CC(C(NC2)=O)CC(=O)O)C=C1 | C20H24N4O4
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 0.8 mmol, 0.2 mL | O1CCOCC1 | C4H8O2
reactant | triethylamine | 2.5 mmol, 0.35 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | Ethyl (±)-8-[3-(2-pyridylamino)-1-propyloxy]-2-methyl-3-oxo-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | 0.20 g, 69% | N1=C(C=CC=C1)NCCCOC1=CC2=C(CC(C(N(C2)C)=O)CC(=O)OCC)C=C1 | C23H29N3O4
